US05438064
4,7-Dichloro-3-quinolinecarboxylic acid ethyl ester (72.0 g, 267 mmol) and p-aminobenzoic acid (36.6 g, 267 mmol) were refluxed in 675 ml of THF for 6 h then cooled to room temperature. The yellow precipitate was filtered, combined with the product from a 10 mmol reaction and washed with THF, then ether. The yellow powder was then dried in vacuo overnight affording 82.7 g (203 mmol, 73% yield) of 4-[(4-carboxyphenyl)amino]-7-chloro-3-quinolinecarboxylic acid ethyl ester hydrochloride.

reactant | 4,7-Dichloro-3-quinolinecarboxylic acid ethyl ester | 267 mmol, 72.0 g | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1Cl)Cl | C12H9Cl2NO2
reactant | p-aminobenzoic acid | 267 mmol, 36.6 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
solvent | THF | 675 ml | C1CCOC1 | C4H8O
product | 4-[(4-carboxyphenyl)amino]-7-chloro-3-quinolinecarboxylic acid ethyl ester hydrochloride | 203 mmol, 82.7 g, 73% yield | Cl.C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1NC1=CC=C(C=C1)C(=O)O)Cl | InChI=1S/C19H15ClN2O4.ClH/c1-2-26-19(25)15-10-21-16-9-12(20)5-8-14(16)17(15)22-13-6-3-11(4-7-13)18(23)24;/h3-10H,2H2,1H3,(H,21,22)(H,23,24);1H
